US04332948
6.6 g of cinnamaldehyde and 6.1 g of 1-methyl-1-phenylhydrazine were added to 50 ml of ethanol. To the mixture, two or three drops of 1 N hydrochloric acid were added. The mixture was heated and refluxed for about one hour. The reaction mixture was cooled and the crystals then separated, which were then collected on a suction funnel. The thus obtained crude cinnamaldehyde 1-methyl-1-phenylhydrazone was recrystallized from ethanol. The yield was 6.8 g (57.6%) of light yellow needle-like crystals which melt at 113.5°-114.5° C.

reactant | cinnamaldehyde | 6.6 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | 1-methyl-1-phenylhydrazine | 6.1 g | CN(N)C1=CC=CC=C1 | C7H10N2
catalyst | hydrochloric acid | 1 N, three drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | cinnamaldehyde 1-methyl-1-phenylhydrazone | CN(N=CC=CC1=CC=CC=C1)C1=CC=CC=C1 | C16H16N2
